US07186724B2
4-(5-Trifluoromethyl-benzo[d]isoxazol-3-yl)-piperidine-1-carboxylic acid tert-butyl ester.
A solution of 4-[(2-Fluoro-5-trifluoromethyl-phenyl)-hydroxyimino-methyl]-piperidine-1-carboxylic acid tert-butyl ester (4.969 g, 0.013 M) in anhydrous THF (59 mL) was treated with Potassium tert-butoxide (13.4 mL of a 1M solution in THF, 0.0133 M-1.05 eq). The mixture was stirred at ambient temperature for 1 hour and. then heated to 65° C. for 2 hours. The THF was removed under reduced pressure. The residue was dissolved in ethyl acetate (100 mL), washed with H2O (50 mL) and brine (50 mL) respectively. It was then dried over MgSO4, filtered and concentrated to give a solid (5 g) which was purified on silica ˜120 g, (eluting with ethylacetate/heptane (30:70) to give the product as a white solid (2.69 g, 57%).

reactant | 4-[(2-Fluoro-5-trifluoromethyl-phenyl)-hydroxyimino-methyl]-piperidine-1-carboxylic acid tert-butyl ester | 0.013 M, 4.969 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=NO)C1=C(C=CC(=C1)C(F)(F)F)F | C18H22F4N2O3
reactant | Potassium tert-butoxide | CC(C)([O-])C.[K+]
solvent | THF | 59 mL | C1CCOC1 | C4H8O
product | 4-(5-Trifluoromethyl-benzo[d]isoxazol-3-yl)-piperidine-1-carboxylic acid tert-butyl ester | 5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NOC2=C1C=C(C=C2)C(F)(F)F | C18H21F3N2O3
